US06552068B1
Lithium chloride (401 mg, 9.540 mmol) and water (86 mg, 4.770 mmol) were added to a solution of diethyl 2-(7-octenyl)-2-(5,5,6,6,6-pentafluorohexyl)malonate (2.12 g, 4.770 mmol) in dimethyl sulfoxide (8 ml) followed by stirring for 16 hours at 180° C. After cooling, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/50) to give ethyl 2-(5,5,6,6,6-pentafluorohexyl)-9-decenoate (1.40 g, Yield 79%) as a colorless oil.

reactant | Lithium chloride | 9.540 mmol, 401 mg | [Cl-].[Li+]
reactant | water | 4.770 mmol, 86 mg | O | H2O
reactant | diethyl 2-(7-octenyl)-2-(5,5,6,6,6-pentafluorohexyl)malonate | 4.770 mmol, 2.12 g | C(CCCCCC=C)C(C(=O)OCC)(C(=O)OCC)CCCCC(C(F)(F)F)(F)F | C21H33F5O4
solvent | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
product | ethyl 2-(5,5,6,6,6-pentafluorohexyl)-9-decenoate | 1.40 g, Yield 79% | FC(CCCCC(C(=O)OCC)CCCCCCC=C)(C(F)(F)F)F | C18H29F5O2
